US05753661
A mixture of 2,3-dihydro-2,2-dimethylbenzofuran (25 g) and tetramethylethylenediamine (46 g) in heptane (250 ml) was treated dropwise at room temperature with 1.6M BuLi in hexane (250 ml). After stirring for 1.5 h at 30°-40° C. the mixture was cooled to -40° C. and 1-benzyl-4-piperidinone (32 g) was added dropwise at -40° C. The reaction mixture was allowed to warm to room temperature during 3 h followed by quench with water. After concentrating the reaction mixture in vacuo dichloromethane (500 ml) was added followed by wash with water (3×500 ml). Removal of solvent in vacuo gave an oil which was purified by flash chromatography (silica gel, heptane/ethyl acetate/triethylamine 50:48:2) giving an oil. Addition of heptane gave the product, 7-(1-benzyl-4-hydroxy-4-piperidinyl)-2,3-dihydro-2,2-dimethylbenzofuran as a solid (11 g).

reactant | 2,3-dihydro-2,2-dimethylbenzofuran | 25 g | CC1(OC2=C(C1)C=CC=C2)C | C10H12O
reactant | tetramethylethylenediamine | 46 g | CN(CCN(C)C)C | C6H16N2
reactant | BuLi | 1.6M | [Li]CCCC
reactant | 1-benzyl-4-piperidinone | 32 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | heptane | 250 ml | CCCCCCC | C7H16
solvent | hexane | 250 ml | CCCCCC | C6H14
product | 7-(1-benzyl-4-hydroxy-4-piperidinyl)-2,3-dihydro-2,2-dimethylbenzofuran | 11 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=CC=2CC(OC21)(C)C | C22H27NO2
